US05856518
1-[(RS)-1-Cyano-[(S)-1-phenylethylamino]methyl]-1-ethoxycarbonylcyclopropane
An eggplant type flask was charged with 10 g of ethyl 1-formylcyclopropane-1-carboxylate to which were further added 12.8 g of (S)-1-phenylethylamine dissolved in 100 ml of ethanol, 6.9 g of potassium cyanide dissolved in 40 ml of water and 22 g of sodium hydrogen sulfite in that order at 0° C. The reaction system was stirred for 2 hours at 50° C. After confirming completion of the reaction, the reaction solution was mixed with ice water and extracted with ethyl acetate. Next, the resulting organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate and, after removing insoluble matter by filtration, the solvent was evaporated under a reduced pressure. Thereafter, the resulting residue was subjected to a silica gel column chromatography (hexane:ethyl acetate=8:1) to obtain 15.7 g (82%) of a diastereomer mixture in the form of colorless oil. Formation ratio of the two diastereomers was calculated under the following analytical conditions. Further, these diastereomers were able to be separated by a thin layer chromatography (hexane:ethyl acetate=4:1).

reactant | ethyl 1-formylcyclopropane-1-carboxylate | 10 g | C(=O)C1(CC1)C(=O)OCC | C7H10O3
reactant | (S)-1-phenylethylamine | 12.8 g | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | potassium cyanide | 6.9 g | [C-]#N.[K+]
reactant | sodium hydrogen sulfite | 22 g | S(=O)(O)[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 1-[(RS)-1-Cyano-[(S)-1-phenylethylamino]methyl]-1-ethoxycarbonylcyclopropane | 15.7 g, 82% | C(#N)C(C1(CC1)C(=O)OCC)N[C@@H](C)C1=CC=CC=C1 | C16H20N2O2
